US07816552B2
N-[5-(4-Amino-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylamine (Step 1 and Step 2)
To a solution of 2,4-dichloronitrobenzene (3.0 g) in N,N-dimethylacetamide (30 ml) was added a 40% aqueous solution of methylamine (4.9 g) at room temperature, and the resulting mixture was stirred at 75-80° C. for 1.5 hours. To the reaction mixture were added 4-amino-3,5-dimethylphenol (2.2 g), potassium t-butoxide (3.5 g), and N,N-dimethylacetamide (15 ml), and the resulting mixture was stirred at the same temperature for 3 hours. After stirring, water (60 ml) was added to the reaction mixture, and the resulting mixture was cooled gradually to room temperature. The crystalline solid precipitated was collected by filtration and dried in vacuo to afford the title compound (3.0 g, yield: 67%) as a yellow crystalline solid.

reactant | 2,4-dichloronitrobenzene | 3.0 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | methylamine | 4.9 g | CN | CH5N
reactant | 4-amino-3,5-dimethylphenol | 2.2 g | NC1=C(C=C(C=C1C)O)C | C8H11NO
reactant | potassium t-butoxide | 3.5 g | CC(C)([O-])C.[K+]
solvent | N,N-dimethylacetamide | 30 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | water | 60 ml | O | H2O
product | N-[5-(4-Amino-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylamine | 3.0 g, yield: 67% | NC1=C(C=C(OC=2C=CC(=C(C2)NC)[N+](=O)[O-])C=C1C)C | C15H17N3O3
